US05589473
(R)-4-(3-Aminomethyl-1,2,4-oxadiazol-5-yl) -16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy-13-methyl-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1. The resulting product was dissolved in ethyl acetate. Upon addition of a 3N solution of hydrochloric acid in diethyl ether, a precipitate formed which was isolated to yield (R)-4-(3-aminomethyl-1,2,4 -oxadiazol-5-yl)-16-hydroxy-14-methoxy-13-methyl-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione hydrochloride as a white solid.

reactant | (R)-4-(3-Aminomethyl-1,2,4-oxadiazol-5-yl) -16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy-13-methyl-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione | NCC1=NOC(=N1)[C@@H]1CSCC2=C(C(OCCCCC(N1)=O)=O)C(=C(C=C2O[Si](C(C(C)C)(C)C)(C)C)OC)C | C28H44N4O6SSi
reactant | ammonium fluoride | [F-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-4-(3-aminomethyl-1,2,4 -oxadiazol-5-yl)-16-hydroxy-14-methoxy-13-methyl-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione hydrochloride | Cl.NCC1=NOC(=N1)[C@@H]1CSCC2=C(C(OCCCCC(N1)=O)=O)C(=C(C=C2O)OC)C | InChI=1S/C20H26N4O6S.ClH/c1-11-15(28-2)7-14(25)12-9-31-10-13(19-23-16(8-21)24-30-19)22-17(26)5-3-4-6-29-20(27)18(11)12;/h7,13,25H,3-6,8-10,21H2,1-2H3,(H,22,26);1H/t13-;/m0./s1
